US04326055
113.1 g of (6-amino-1,1,3,3-tetramethyl-5-indanyl) methyl ketone are suspended in 2260 ml of 20% hydrochloric acid and the suspension is cooled down to 0°-5° C. The cold mixture is treated dropwise within 10 minutes with a solution of 33.9 g of sodium nitrite in 115 ml of water and the resulting solution is stirred for 30 minutes. The cold solution is subsequently introduced dropwise over a period of 2 hours while stirring into a solution of 243.2 g of copper (I) chloride in 250 ml of water and 250 ml of concentrated hydrochloric acid, which is warmed to 40°-45° C. The mixture is then cooled down, introduced into ice-water and extracted three times with methylene chloride. The organic extract is washed with a sodium chloride solution, dried over sodium sulphate and freed from solvent under reduced pressure. The residue is purified by adsorption on silica gel using hexane/acetone (19:1) for the elution. The (6-chloro-1,1,3,3-tetramethyl-5-indanyl) methyl ketone obtained from the eluate melts at 69°-71° C. after recrystallisation from hexane/ether.

reactant | (6-amino-1,1,3,3-tetramethyl-5-indanyl) methyl ketone | 113.1 g | CC(=O)C=1C=C2C(CC(C2=CC1N)(C)C)(C)C | C15H21NO
reactant | sodium nitrite | 33.9 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 2260 ml | Cl | ClH
reactant | hydrochloric acid | 250 ml | Cl | ClH
solvent | water | 115 ml | O | H2O
solvent | water | 250 ml | O | H2O
catalyst | copper (I) chloride | 243.2 g | [Cu]Cl
product | (6-chloro-1,1,3,3-tetramethyl-5-indanyl) methyl ketone | CC(=O)C=1C=C2C(CC(C2=CC1Cl)(C)C)(C)C | C15H19ClO
